US04456464
Following the procedure of Example 4, methyl P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)-phenoxymethylphosphinate is reacted with thionyl chloride to give P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinic chloride.

reactant | methyl P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)-phenoxymethylphosphinate | CP(OC)(=O)COC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO6P
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinic chloride | CP(=O)(COC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])Cl | C15H11Cl2F3NO5P
